US03970686
A solution of 2.19 g of (1S,2S,5S)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclo-pentaneacetic acid and 5 ml of 2,2-dimethoxypropane in 40 ml of methanol containing 0.05 g of p-toluenesulfonic acid monohydrate is refluxed for 18 hours. The resultant solution is partitioned between aqueous 5% sodium bicarbonate and ether. The ether phase is separated, dried over magnesium sulfate, and stripped of solvent by vacuum distillation. The residue is crystallized from a mixture of acetone and hexane to give methyl (1S,2S,5S)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclopentaneacetate melting at approximately 86°-87°.

reactant | (1S,2S,5S)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclo-pentaneacetic acid | 2.19 g | COC=1C=C2CCC(CC2=CC1)[C@@H]1CC[C@@H]([C@]1(CC(=O)O)C)O | C19H26O4
reactant | 2,2-dimethoxypropane | 5 ml | COC(C)(C)OC | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 40 ml, 0.05 g | CO | CH4O
product | methyl (1S,2S,5S)-5-(1,2,3,4-tetrahydro-6-methoxy-2-naphthyl)-2-hydroxy-1-methylcyclopentaneacetate | COC=1C=C2CCC(CC2=CC1)[C@@H]1CC[C@@H]([C@]1(CC(=O)OC)C)O | C20H28O4
